US05872137
A mixture of 0.61 g of 3,5-dichloro-4-(4-bromobutyloxy)-1-(3,3-dichloro-2-propenyloxy) benzene, 0.19 g of 4-chlorophenol, 0.22 g of potassium carbonate and 20 ml of N,N-dimethylformamide was stirred at room temperature. After 7 hours, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.54 g of 3,5-dichloro-4-(4-(4-chlorophenoxy) butyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (59% yield), m.p. 54.5° C.

reactant | 3,5-dichloro-4-(4-bromobutyloxy)-1-(3,3-dichloro-2-propenyloxy) benzene | 0.61 g | ClC=1C=C(C=C(C1OCCCCBr)Cl)OCC=C(Cl)Cl | C13H13BrCl4O2
reactant | 4-chlorophenol | 0.19 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(4-(4-chlorophenoxy) butyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.54 g, 59% yield | ClC=1C=C(C=C(C1OCCCCOC1=CC=C(C=C1)Cl)Cl)OCC=C(Cl)Cl | C19H17Cl5O3
